US06462038B1
This compound was prepared according to General Method 20 from (2R )-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-1-butanol (5.4 g, 17.3 mmol) in 45 mL THF and NaH (1.4 g, 35 mmol) in 10 mL THF heated at reflux for 1 hr to afford 3.78 g (75%) of (3R)-3-ethyl-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine, after flash chromatography (gradient elution, hexanes:ethyl acetate 95:5 to 50:50). Data for (3R)-3-ethyl-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine: 1H NMR (500 MHz, CDCl3) δ 7.81 (dd, J=8.8, 2.4, 1H), 7.73 (d, J=2.9, 1H), 6.72 (d, J=8.8, 1H), 4.34 (dd, J=11.2, 1.5, 1H), 4.13 (m, 1H), 4.03 (dd, J=11.2, 2.4, 1H), 3.8 (m, 1H), 3.37 (m, 1H), 1.67 (m, 1H), 1.01 (t, J=7.3, 3H).

reactant | (2R )-2-[2-fluoro-4-nitro(2,2,2-trifluoroethyl)anilino]-1-butanol | 17.3 mmol, 5.4 g | FC1=C(N([C@@H](CO)CC)CC(F)(F)F)C=CC(=C1)[N+](=O)[O-] | C12H14F4N2O3
reactant | NaH | 35 mmol, 1.4 g | [H-].[Na+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3R)-3-ethyl-3,4-dihydro-7-nitro-4-(2,2,2-trifluoroethyl)-2H-1,4-benzoxazine | 3.78 g, 75% | C(C)[C@@H]1COC2=C(N1CC(F)(F)F)C=CC(=C2)[N+](=O)[O-] | C12H13F3N2O3
